US04340728
In pyridine (20 ml) was dissolved 2.00 g (8.12 m-mol) of 2'-deoxy-5-fluorouridine, and the solution was cooled to -10° C. To this solution was added a solution of 2.05 g (8.16 m-mol) of N-benzyloxycarbonylvaline and 2.45 g (8.11 m-mol) of TPS in pyridine (20 ml), and the mixture was allowed to stand for 2 days under cooling (about 5° C.). The solvent was distilled off under reduced pressure from the reaction mixture and the residue was subjected twice to silica gel column chromatography [column size: 3.0×10 cm; developing solvent: CHCl3 -CH3OH (98:2)] under the same operation conditions whereby 1.70 g (yield: 43.7%) of 5'-O-(N-benzyloxycarbonylvalyl)-2'-deoxy-5-fluorouridine was obtained as amorphous powders.

reactant | 2'-deoxy-5-fluorouridine | 2.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | N-benzyloxycarbonylvaline | 2.05 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | CHCl3 CH3OH | C(Cl)(Cl)Cl.CO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-(N-benzyloxycarbonylvalyl)-2'-deoxy-5-fluorouridine | 1.70 g, yield: 43.7% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C22H26FN3O8
